US07473786B1
4-methyl-2-Iodophenol:
4-Methylphenol (2.69 g, 24.86 mmol) was dissolved in 50 mL of methanol, and then sodium iodide (3.84 g, 25.60 mmol) and sodium hydroxide (1.16 g, 29.00 mmol) were added. Under nitrogen atmosphere, the solution was cooled down to 0° C. One equivalent of sodium hypochlorite (5.0% NaOCl, 40.0 mL) was added drop wise adjusting the drip rate to maintain a reaction temperature of 0-3° C. A red color appeared and faded instantly when sodium hypochlorite hit the solution. After complete addition, the mixture was stirred for 1 hr at 0-3° C. Then, 10% aqueous sodium thiosulfate solution (28.0 mL) was added and the pH was adjusted to 3-4 using 5% hydrochloric acid or until a white suspension came out. The reaction mixture was extracted with diethyl ether 3×50 mL. The combined organic layers were washed with brine, dried over sodium sulfate, filtered and the solvent was removed in vacuo to afforded light yellow oil, which solidified upon standing. The crude solid was purified by column chromatography (hexane:dichloromethane, 1:3 as the eluent) to afford a white solid (4.54 g, 77.9% yield). 1H NMR δ 2.24 (s, 3H), 5.16 (s, 1 H), 6.85 (d, J=8.3, 1H), 7.01 (dd, J=8.3, and 2.1, 1H), 7.46 (dd, J=1.5, 1H). m.p.: 34.5-35.5° C.

reactant | 4-Methylphenol | 24.86 mmol, 2.69 g | CC1=CC=C(C=C1)O | C7H8O
reactant | sodium iodide | 25.60 mmol, 3.84 g | [I-].[Na+]
reactant | sodium hydroxide | 29.00 mmol, 1.16 g | [OH-].[Na+]
reactant | sodium hypochlorite | 40.0 mL, One equivalent | Cl[O-].[Na+]
reactant | sodium thiosulfate | 28.0 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 50 mL | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-methyl-2-Iodophenol | 4.54 g, 77.9% yield | CC1=CC(=C(C=C1)O)I | C7H7IO
